US05393875
In an analogous manner to that described in paragraph (d) above, by reacting benzoyl chloride with benzyl rac-α-[[(2-hydroxy-1,1-dimethylethyl)sulfonyl]methyl]hydrocinnamate in pyridine there was obtained benzyl rac-α-[[[2-(benzoyloxy)-l,1dimethylethyl]sulfonyl]methyl]hydrocinnamate as a colourless oil, MS: 403 (M-benzyl)+.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | benzyl rac-α-[[(2-hydroxy-1,1-dimethylethyl)sulfonyl]methyl]hydrocinnamate | OCC(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H26O5S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | benzyl rac-α-[[[2-(benzoyloxy)-l,1dimethylethyl]sulfonyl]methyl]hydrocinnamate | C(C1=CC=CC=C1)(=O)OCC(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C28H30O6S
